US08859591B2
Step B: (2,6-difluoro-4-methoxy-phenyl)-hydrazine hydrochloride
Di-tert-butyl 1-(2,6-difluoro-4-methoxyphenyl)hydrazine-1,2-dicarboxylate (616 mg, 1.64 mmol) was heated in 4 M HCl in dioxane (5 mL, 20 mmol) at reflux. The solution over time became a suspension. At 30 min, the reaction was cooled, diethylether was added, and the solid was collected with a medium frit, washing with diethylether. This gave (2,6-difluo-4-methoxy-phenyl)-hydrazine hydrochloride (0.246 g, 86%) as a tan solid. 1H NMR (400 MHz, DMSO-d6, δ): 9.75 (br. s., 3H) 7.46 (s, 1H) 6.79-6.90 (m, 2H) 3.78 (s, 3H).

reactant | Di-tert-butyl 1-(2,6-difluoro-4-methoxyphenyl)hydrazine-1,2-dicarboxylate | 1.64 mmol, 616 mg | FC1=C(C(=CC(=C1)OC)F)N(NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C17H24F2N2O5
reactant | dioxane | 20 mmol, 5 mL | O1CCOCC1 | C4H8O2
reactant | diethylether | C(C)OCC | C4H10O
reactant | HCl | 4 M | Cl | ClH
product | (2,6-difluoro-4-methoxy-phenyl)-hydrazine hydrochloride | Cl.FC1=C(C(=CC(=C1)OC)F)NN | InChI=1S/C7H8F2N2O.ClH/c1-12-4-2-5(8)7(11-10)6(9)3-4;/h2-3,11H,10H2,1H3;1H
